US04263319
A stirred solution of 0.25 g (0.0012 mole) of 4-phenyl-2-indanol and 0.11 g (0.0014 mole) of pyridine in 10 ml of toluene was cooled to 5° C., and a solution of 0.28 g (0.0011 mole) of cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride, prepared in accordance with Example 8, in 5 ml of toluene was added portionwise. Upon complete addition the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure to a residual oil. The oil was placed on a silica gel pad, and the product was eluted with 50 ml of 1:1 hexane:toluene. The eluate was concentrated under reduced pressure at 100°-115° C./0.02 mm using a Kugelrohr distilling system to give 0.12 g of 4-phenyl-2-indanyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate. The nmr spectrum was consistent with the proposed structure.

reactant | 4-phenyl-2-indanol | 0.0012 mole, 0.25 g | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
reactant | pyridine | 0.0014 mole, 0.11 g | N1=CC=CC=C1 | C5H5N
reactant | cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.0011 mole, 0.28 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)C(F)(F)F | C9H9Cl2F3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-phenyl-2-indanyl cis-3-(2-chloro-3,3,3-trifluoro-1-propenyl)-2,2-dimethylcyclopropanecarboxylate | 0.12 g | ClC(=C[C@H]1C([C@H]1C(=O)OC1CC2=CC=CC(=C2C1)C1=CC=CC=C1)(C)C)C(F)(F)F | C24H22ClF3O2
